US07923456B2
Step 9: 5-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester
To a suspension of 2-(2-fluoro-4-methylsulfanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester (309 mg, 0.89 mmol) in toluene (15.6 mL) was added phosphorous oxychloride (91 μl, 0.98 mmol) and the reaction mixture heated to 95° C. and stirred for 1 hour. The cooled reaction mixture was quenched by the addition of water (ca. 2 mL) then concentrated in vacuo. The resultant residue was taken up in ethyl acetate and washed with water followed by a saturated aqueous solution of sodium bicarbonate and brine. The organic phase was isolated, dried (Na2SO4), filtered, concentrated in vacuo, and the residue subjected to flash chromatography (Si-PPC, gradient 0% to 40%, ethyl acetate in hexane) to afford the title compound as a yellow solid (150 mg, 51%). LCMS (method B): RT=3.44 min, [M+H]+=332.

reactant | 2-(2-fluoro-4-methylsulfanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 0.89 mmol, 309 mg | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)SC)F)=O | C16H16FN3O3S
reactant | phosphorous oxychloride | 0.98 mmol, 91 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 15.6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 150 mg, 51% | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)SC)F)C=NC2 | C16H14FN3O2S
